Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Attempted advancement of Dobhoff tube into the Jejunum, 
unsuccessful

 
History of Present Illness:
Patient is a ___ y/o woman with bipolar d/o, eating disorder and 
gastroparesis who is dependent on tube feeds via Dobhoff tube 
for nutrition.  She presently has a Dobhoff tube in the stomach 
for nutrition, but she has been insistent that she needs a post 
pyloric Dobhoff as she cannot tolerate feeds in her stomach.  
She came to ___ last week for positioning of the Dobhoff in 
the jejunum through ___.  She was told by ___ that they placed it 
just above the pylorus and that it would migrate to the jejunum. 
 She has tried to use the Dobhoff for nutrition, and just 
aspirated gastric contents, and she is here for placement of the 
Dobhoff tube in the jejunum.  SHe complains of abdominal pain 
and nausea, and extreme frustration over recurrent 
hospitalizations and ED visits.  
 
Past Medical History:
Per OMR:
#Gastroparesis: gastric empyting study ___ shows ___ hour 
delayed emptying. First received G-J Tube ___, converted to 
G-tube ___. ___ tube placed ___ and on tube feeds currently. 

# Eating disorder NOS (thought to be etiology of gastroparesis). 
Treatment team includes psychiatrist, PCP, ___, and 
nutritionist.
# Small Intestinal Bacterial Overgrowth: treated with 
intermittent rifaximin  
# GERD  
# Bipolar disorder (prior episode of lithium toxicity requiring) 

 

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
VSS
Gen:  Very anxious at first then better after IV Benadryl, + 
dobhoff in nose
Lung:  CTA B
CV: RRR
ABD:  + G tube nabs soft
Ext:  No edema
 
Pertinent Results:
___ 11:25AM BLOOD WBC-8.3# RBC-4.38 Hgb-12.2 Hct-38.8 
MCV-89 MCH-27.9 MCHC-31.4* RDW-14.6 RDWSD-47.5* Plt ___
___ 11:25AM BLOOD Neuts-76.4* Lymphs-15.2* Monos-5.9 
Eos-1.7 Baso-0.6 Im ___ AbsNeut-6.31*# AbsLymp-1.26 
AbsMono-0.49 AbsEos-0.14 AbsBaso-0.05
___ 11:25AM BLOOD Glucose-90 UreaN-9 Creat-0.9 Na-141 K-4.1 
Cl-104 HCO3-28 AnGap-13
___ 11:25AM BLOOD Calcium-10.0 Phos-3.7 Mg-2.0

___ 06:44AM BLOOD WBC-6.1 RBC-3.78* Hgb-10.4* Hct-33.0* 
MCV-87 MCH-27.5 MCHC-31.5* RDW-14.1 RDWSD-44.8 Plt ___
___ 06:44AM BLOOD Glucose-86 UreaN-11 Creat-0.8 Na-139 
K-4.0 Cl-107 HCO3-25 AnGap-11

The left nare was anesthetized with lidocaine jelly.  Under 
intermittent 
fluoroscopic guidance, ___ feeding tube was 
advanced into the stomach and then post-pylorically using a 
guidewire. 
  
10 cc of Optiray contrast were used to confirm post pyloric 
placement.  Final fluoroscopic spot images demonstrated the type 
of the feeding tube in the first portion of the duodenum. 
  
The feeding tube was affixed to the patient's nose and cheek 
using tape. 
  
IMPRESSION:  
  
Successful placement of ___ feeding 
tube.  The 
tube is ready to use. 

___ XRay
Dobhoff tube in stomach
 
Brief Hospital Course:
___ y/o woman with gastroparesis, eating disorder, here with 
Dobhoff tube in stomach, and it is supposed to be in duodenum.

1.  Nutrition:  She went for ___ procedure to advance Dobhoff 
tube past the duodenum but it was not successful.  The Dobhoff 
tube was removed, and she tolerated food by mouth.  She was 
scheduled to return for ___ conversion of her G tube to her GJ 
tube and will resume tube feeds at that time, as she says that 
she cannot maintain her weight by po intake.  Of note, her 
weight is largely unchanged over the past few years.  Weight 
during this hospitalization is 138 lbs.  
2.  Abdominal pain:  Patient would appear anxious, complain of 
abdominal pain at least once a day.  WE counseled her that 
opiates are not indicated for abdominal pain, and she would then 
request IV benedryl, which was given on a daily basis at her 
request.  It did produce relief of her symptoms.
3.  Bipolar d/o:  on lithium, clonazepam and trazodone.
4.  Anemia:  Likely dilutional, she denies any GI blood loss.
5.  Hypotension:  Bps seen in the 70-80s/50-60s.  She is 
asymptomatic, likely due to sedating medication.  Seen in 
recurrent hospitalizations. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 3 mg PO QHS 
2. Gabapentin 25 mg PO QHS 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Lithium Carbonate 600 mg PO BID 
5. metaxalone 800 mg oral DAILY:PRN abd spasm 
6. Omeprazole 20 mg PO BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Sumatriptan Succinate 4 mg SC BID:PRN headache 
9. TraZODone 200 mg PO QHS 
10. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroparesis
Bipolar D/o

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for advancement of the dobhoff tube to the 
jejunum.  Our interventional radiologists attempted to do this, 
but failed to do so.  Our interventional radiologists have 
ordered the proper tube to change your G tube to a J tube and 
will have those supplies soon.  They will contact you with a 
time for you to come in on ___.  If you do not here from 
them, please contact their schedulers at ___.

 
Followup Instructions:
___